US07173023B2
In an analogous manner to that described in Example 17 c), the alkylation of 7-hydroxy-1,3,4,5-tetrahydro-benzo[d]azepin-2-one [Example 19 b)] by 3-chlorobenzylbromide in the presence of potassium carbonate in 2-butanone yielded the 7-(3-chloro-benzyloxy)-1,3,4,5-tetrahydro-benzo[d]azepin-2-one as a white solid; MS: m/e=302 (M+H)+.

reactant | 7-hydroxy-1,3,4,5-tetrahydro-benzo[d]azepin-2-one | OC1=CC2=C(CC(NCC2)=O)C=C1 | C10H11NO2
reactant | 3-chlorobenzylbromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 7-(3-chloro-benzyloxy)-1,3,4,5-tetrahydro-benzo[d]azepin-2-one | ClC=1C=C(COC2=CC3=C(CC(NCC3)=O)C=C2)C=CC1 | C17H16ClNO2
